US05073556
1.0 g (0.0024 moles) of ethyl 3-cyclopropylamino-2-(3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl)acrylate [(XIX), R1 =--OCHF2, R3' =NO2, R17 =C2H5, X=X'=F] [prepared as described in step (d) above] was dissolved in 10 ml of tetrahydrofuran, and 0.094 g (0.0024 moles) of a 60% w/w suspension of sodium hydride in mineral oil was added to the resulting mixture. The mixture was then stirred at room temperature for 1 hour, after which 1N aqueous hydrochloric acid was added, and the mixture was vigorously stirred to acidify the whole mixture. The crystals which precipitated were collected by filtration and washed with water and with diethyl ether, in that order, to give 0.6 g of ethyl 1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-5-nitro-1,4-dihydro-4-oxo-quinoline-3-carboxylate as a pale yellow powder, melting at 262°-268° C.

reactant | ethyl 3-cyclopropylamino-2-(3-difluoromethoxy-2,4,5-trifluoro-6-nitrobenzoyl)acrylate | 0.0024 moles, 1.0 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1[N+](=O)[O-])F)F)OC(F)F)F)=O | C16H13F5N2O6
reactant | sodium hydride | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-5-nitro-1,4-dihydro-4-oxo-quinoline-3-carboxylate | 0.6 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)OC(F)F)F)F)[N+](=O)[O-])=O)C(=O)OCC | C16H12F4N2O6
